US08034812B2
Production of N-(2-fluoro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of 3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-4-fluorophenyl methyl carbonate (448 mg, 1.46 mmol) in methanol (10 mL) was added 1N aqueous sodium hydroxide solution (2 mL, 2 mmol) under ice-cooling, and the mixture was stirred at room temperature for 40 min. Under ice-cooling, 1N hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was recrystallized from diethyl ether/hexane to give the title compound (305 mg, 84%) as a white powder.

reactant | 3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-4-fluorophenyl methyl carbonate | 1.46 mmol, 448 mg | C(OC1=CC(=C(C=C1)F)NC(=O)C1=CC(=NN1C)C)(OC)=O | C14H14FN3O4
reactant | sodium hydroxide | 2 mmol, 1N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | N-(2-fluoro-5-hydroxyphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 305 mg, 84% | FC1=C(C=C(C=C1)O)NC(=O)C1=CC(=NN1C)C | C12H12FN3O2
